US08378108B2
The methyl 6-(6-cyclopropyl-3,4′-bipyridine-2′-carboxamido)picolinate from the previous step were suspended in ethanol (20 mL), hydrazine hydrate (700 μL, 14.4 mmol) was added, and the reaction was heated to relfux for 4 hours. The reaction mixture was concentrated and the resultant solids were suspended in acetronitrile and collected by filtration. The solids were washed with acetonitrile (2×100 mL) and diethyl ether (2×100 mL), and dried under reduced pressure to afford 1.21 g (47% yield) of 6-cyclopropyl-N-(6-(hydrazinecarbonyl)pyridin-2-yl)-3,4′-bipyridine-2′-carboxamide as a white solid.

reactant | methyl 6-(6-cyclopropyl-3,4′-bipyridine-2′-carboxamido)picolinate | C1(CC1)C1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)NC1=CC=CC(=N1)C(=O)OC | C21H18N4O3
reactant | hydrazine hydrate | 14.4 mmol, 700 μL | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-cyclopropyl-N-(6-(hydrazinecarbonyl)pyridin-2-yl)-3,4′-bipyridine-2′-carboxamide | 1.21 g, 47% yield | C1(CC1)C1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)NC1=NC(=CC=C1)C(=O)NN | C20H18N6O2
